US07148229B2
Prepared from 5,6-diamino-1-butyl-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione (30.6 mg, 0.1 mmol) and [4-(1,3,5-trimethyl-1H-pyrazol-4-ylsulfamoyl)-phenyl]-acetic acid. 4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-N-(1,3,5-trimethyl-1H-pyrazol-4-yl)-benzenesulfonamide was obtained as a colorless solid; 1H NMR (DMSO-d6, 300 MHz) δH 13.48 (s, 1H), 8.94 (s, 1H), 7.49 (d, J=8.4 Hz, 2H), 7.38 (d, J=7.7 Hz, 2H), 7.30–6.90 (m, 4H), 5.03 (s, 2H), 4.10 (s, 2H), 3.88 (t, J=7.1 Hz, 2H), 3.45 (s, 3H), 1.71 (s, 3H), 1.60–1.45 (m, 2H), 1.42 (s, 3H), 1.25–1.10 (m, 2H), 0.79 (t, J=7.5 Hz, 3H); FAB-HRMS m/e calculated for C29H32FN7O4S (M+H)+ 594.2299, found 594.2281.

reactant | 5,6-diamino-1-butyl-3-(2-fluoro-benzyl)-1H-pyrimidine-2,4-dione | 0.1 mmol, 30.6 mg | NC=1C(N(C(N(C1N)CCCC)=O)CC1=C(C=CC=C1)F)=O | C15H19FN4O2
reactant | [4-(1,3,5-trimethyl-1H-pyrazol-4-ylsulfamoyl)-phenyl]-acetic acid | CN1N=C(C(=C1C)NS(=O)(=O)C1=CC=C(C=C1)CC(=O)O)C | C14H17N3O4S
product | 4-[3-Butyl-1-(2-fluoro-benzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-N-(1,3,5-trimethyl-1H-pyrazol-4-yl)-benzenesulfonamide | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)S(=O)(=O)NC=1C(=NN(C1C)C)C)=O)CC1=C(C=CC=C1)F)=O | C29H32FN7O4S
